US07592342B2
Preparation of 2,4-difluoro-N-{5-[3-(1-methyl-1H-pyrazol-4-yl)-6-quinoxalinyl]-3-pyridinyl}benzenesulfonamide
A mixture of 2-(1-methyl-1H-pyrazol-4-yl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoxaline (9.22 mmol), N-(5-bromo-3-pyridinyl)-2,4-difluorobenzenesulfonamide (8.13 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) dichloromethane complex (1:1) (0.404 mmol) in 2M aqueous sodium carbonate (40 mL) and 1,4-dioxane (40 mL) was heated at 100° C. for 1 h. Upon cooling, the reaction mixture separated into two layers (aqueous and organic). The organic layer was partitioned between ethyl acetate (50 mL) and water (25 mL). The two aqueous layers were then combined and the pH was adjusted to ˜7 with 2N aqueous HCl. A solid precipitated and was filtered away from the solution. The solid was dried in vacuo and then desiccated over P2O5 to afford the title product (2.5 g, 64%). MS(ES)+ m/e 479 [M+H]+.

reactant | 2-(1-methyl-1H-pyrazol-4-yl)-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoxaline | 9.22 mmol | CN1N=CC(=C1)C1=NC2=CC(=CC=C2N=C1)B1OC(C(O1)(C)C)(C)C | C18H21BN4O2
reactant | N-(5-bromo-3-pyridinyl)-2,4-difluorobenzenesulfonamide | 8.13 mmol | BrC=1C=C(C=NC1)NS(=O)(=O)C1=C(C=C(C=C1)F)F | C11H7BrF2N2O2S
solvent | sodium carbonate | 2M, 40 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 2,4-difluoro-N-{5-[3-(1-methyl-1H-pyrazol-4-yl)-6-quinoxalinyl]-3-pyridinyl}benzenesulfonamide | 2.5 g, 64% | FC1=C(C=CC(=C1)F)S(=O)(=O)NC=1C=NC=C(C1)C=1C=C2N=C(C=NC2=CC1)C=1C=NN(C1)C | C23H16F2N6O2S
